US07256198B2
Step 1: 3-[5′-{[pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2.3′-indol]-1′(2′H)-yl]-2-bromo-butane
To a solution of potassium t-butoxide (0.12 g, 1 mmol, 1 eq) in anhydrous DMSO (5 mL) at room temperature under dry N2 atmosphere was added 5′-{[pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one (previously described in step 2, Example 12) (0.33 g, 1 mmol). After stirring for 10 minutes, 1,3-dibromobutane (0.22 g, 1 mmol, 1 eq) was added dropwise to the reaction over a 5 minute period. The reaction mixture was stirred at room temperature for one hour. The mixture was poured into H2O (20 ml) and exhaustively extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash chromatography on silica gel using 30% EtOAc/hexane to give the title compound as an off white solid (0.23 g, 50% yield). NMR (400 MHz, DMSO-d6): consistent. MS: (API-ES+) m/z 474 [M+H].

reactant | potassium t-butoxide | 1 mmol, 0.12 g, 1 eq | CC(C)([O-])C.[K+]
reactant | 5′-{[pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | N1(CCCC1)S(=O)(=O)C=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C15H18N2O5S
reactant | 1,3-dibromobutane | 1 mmol, 0.22 g, 1 eq | BrCCC(C)Br | C4H8Br2
reactant | H2O | 20 ml | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-[5′-{[pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2.3′-indol]-1′(2′H)-yl]-2-bromo-butane | N1(CCCC1)S(=O)(=O)C=1C=C2C3(C(N(C2=CC1)C(C(C)Br)C)=O)OCCCO3 | C19H25BrN2O5S
